US05356930
To a mixture of 181 g (0.667 mol) of 2-[2-chloro-4-(2-methylbutoxymethyl)phenoxy]ethylamine, 81 g (0.80 mol) of triethylamine and 8 liter of toluene, there is added dropwise a solution of 70 g (0.67 mol) of cyclopropane carbonyl chloride in 2 liter of toluene with stirring at a temperature of from 5° C. to 10° C. After 2 hours, the reaction mixture is stirred at a room temperature for 15 hours. After the reaction is completed, the resultant mixture is washed twice with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel chromatography to give N-{2-[2-chloro-4-(2-methylbutoxymethyl)phenoxy]ethyl}-cyclopropane carboxyamide.

reactant | 2-[2-chloro-4-(2-methylbutoxymethyl)phenoxy]ethylamine | 0.667 mol, 181 g | ClC1=C(OCCN)C=CC(=C1)COCC(CC)C | C14H22ClNO2
reactant | triethylamine | 0.80 mol, 81 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 0.67 mol, 70 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | toluene | 2 liter | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 8 liter | C1(=CC=CC=C1)C | C7H8
product | N-{2-[2-chloro-4-(2-methylbutoxymethyl)phenoxy]ethyl}-cyclopropane carboxyamide | ClC1=C(OCCNC(=O)CC2CC2)C=CC(=C1)COCC(CC)C | C19H28ClNO3
